US08076478B2
(2) Synthesis of 1,3-bis(N,N-bis(3-aminopropyl)aminomethyl)benzene
6.97 g of 1,3-bis(N,N-bis(2-cyanoethyl)aminomethyl)benzene, 0.70 g of Raney Co and 100 mL of 1,4-dioxane were charged in an autoclave and a hydrogenation reaction was carried out at an initial hydrogen pressure of 9.0 MPa at 180° C. for 2 hours. After the catalyst was removed by filtration, the obtained filtrate was concentrated to dryness to give 6.88 g of the title compound.

reactant | 1,3-bis(N,N-bis(2-cyanoethyl)aminomethyl)benzene | 6.97 g | C(#N)CCN(CCC#N)CC1=CC(=CC=C1)CN(CCC#N)CCC#N | C20H24N6
reactant | hydrogen | [H][H] | H2
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 1,3-bis(N,N-bis(3-aminopropyl)aminomethyl)benzene | 6.88 g | NCCCN(CCCN)CC1=CC(=CC=C1)CN(CCCN)CCCN | C20H40N6
